US05811456
Example 17: Preparation of the compound (I-c1): Benzaldehyde (2-cyanoethyl)(N-methylcarbamoyl)hydrazone
0.57 g (10-2 moles) of methyl isocyanate is added, at 25° C., to a solution of 10-2 moles of benzaldehyde (2-cyanoethyl)hydrazone in 30 ml of anhydrous benzene. The mixture is then heated to boiling temperature and left under reflux for 30 minutes. On cooling, the acylated compound crystallizes. It is filtered, drained and then recrystallized from a mixture of benzene and cyclohexane. Its melting point is 145° C. The reaction yield is 48%.

reactant | methyl isocyanate | 10-2 moles, 0.57 g | CN=C=O | C2H3NO
reactant | benzaldehyde (2-cyanoethyl)hydrazone | 10-2 moles | C(#N)CCNN=CC1=CC=CC=C1 | C10H11N3
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | Benzaldehyde (2-cyanoethyl)(N-methylcarbamoyl)hydrazone | C(#N)CCN(N=CC1=CC=CC=C1)C(NC)=O | C12H14N4O
